* Z:\home\mariano\scripts\pytc2\docs\notebooks\schematics\GIC bicuad.asc
R1 va vi {Q*R/(b+eps)}
RG1 va vb {R}
RG3 vc vo {R}
RG4 vo vd {R}
RG5 vd 0 {R/(1-c+eps)}
C1 va 0 {(1-a)*C0}
CG2 vb vc {C0}
XU1 vc va vo opamp Aol=100K GBW=10Meg
XU2 vc vd vb opamp Aol=100K GBW=10Meg
R2 0 va {Q*R/(1-b+eps)}
C2 va vi {a*C0}
RG2 vi vd {R/(c+eps)}
V1 vi 0 AC 1
.inc opamp.sub
.ac dec 1000 {f0/100} {f0*100}
#.param Qz=5 wz=0.5 * w0
* Versión normalizada
.param znorm=1 wnorm=1 f0=w0/2/pi
* Full bicuad config
.param R=znorm/w0/C0 C0 = 1
* Configuración de la simulación
#.param c= k*wz*wz/w0/w0 a = (k+c)/2 b = k * wz / 2 / w0 *(Q/Qz + wz/w0)
* Low/High pass notch
#.param c= k*wz*wz/w0/w0 a = (k+c)/2 b = c/2
#.param  wz=.10 * wnorm
* Highpass config
#.param c= 0 b = 0 a = k/2
.param k=1 Q=sqrt(2)/2 w0=1 * wnorm
* Allpass config
.param c= 1 a = 1 b = 0
* Lowpass config
#.param c= k a = c/2 b = c/2
* Bandpass config
#.param c= 0 a = 0 b = k/2
* Parámetros generales
.param eps = 1e-10
* eps es un nro muy pequeño para\nevitar divisiones por cero, etc
* SOS parametrization
* Notch config
#.param c= 1 a = 1 b = 1/2
.backanno
.end
