* G:\mariano\Escritorio\Enlace hacia pytc2\docs\SOS_pasabanda_simple.asc
L V2 0 {Q*Ro/wo}
C V2 0 {1/(Q*wo*Ro)}
V1 V1 0 SINE(0 1 0 0 0 0 1000) AC 1 0
R V2 V1 {Ro}
.ac dec 100 .1 10
.param Q=1
.param wo=1*2*pi
.param Ro=1
.backanno
.end
