* Z:\home\mariano\scripts\pytc2\docs\notebooks\schematics\lattice_1ord_delay_eq.asc
V1 N001 0 0 AC 1 0 Rser=0
R1 v1 N001 {R}
R2 4 3 {R}
L1 v1 3 {L} Rser=0
C1 4 v1 {C}
L2 4 0 {L} Rser=0
C2 0 3 {C}
.net I(R2) V1
.ac dec 100 .001 100
.param L=R/sigma0 C=1/sigma0/R
.param sigma0 = 1 R=1
* V_o/V1 = (R - Za)/(R + Za) =
* = (s - sigma0)/(s + sigma0)
* = (s - R/L1) / (s + R/L1)
.backanno
.end
