* G:\mariano\Escritorio\Enlace hacia pytc2\docs\notebooks\schematics\pi_simple_cargado.asc
I1 0 vi 0 AC 1 0
R1 vi 0 1
C2 vi 0 {7/17/wo/Ro}
C3 vo vi {27/289/wo/Ro}
C4 0 vo {27/17/wo/Ro}
L4 vo vi {289/243/wo*Ro} Rser=0
#.net I(R2) V1
.ac dec 1000 .1 10
.param wo=2*pi
.param Ro=1
.net V(vo) I1
.backanno
.end
