* G:\mariano\Escritorio\Enlace hacia Docencia\TC2\scripts\pytc2\docs\notebooks\schematics\tee_1ord_delay_eq.asc
V1 N001 0 0 AC 1 0 Rser=0
R1 vi N001 {R}
R2 0 vo {R}
L1 N002 vi {L/2} Rser=0
L2 vo N002 {L/2} Rser=0
C1 N002 0 {2*C}
.net I(R2) V1
.ac dec 100 .001 100
k L1 L2 1
.param L=R/sigma0 C=1/sigma0/R
.param sigma0 = 1 R=1
* V_o/V1 = (R - Za)/(R + Za) =
* = (s - sigma0)/(s + sigma0)
* = (s - R/L1) / (s + R/L1)
.backanno
.end
