* G:\mariano\Escritorio\Enlace hacia pytc2\docs\notebooks\schematics\tee_descargado.asc
V1 vi 0 0 AC 1 0 Rser=0
L1 N001 vi {27/17/wo*Ro} Rser=0
L2 P001 0 {27/289/wo*Ro} Rser=0
C1 N001 P001 {289/243/wo/Ro}
L3 vo N001 {7/17/wo*Ro} Rser=0
#.net I(R2) V1
.ac dec 1000 .1 10
.param wo=2*pi
.param Ro=1
.net V(vo) V1
.backanno
.end
